US07208142B2
2-(5,6-Dimethoxy-3,3-dimethyl-1-indanylidene)-4,4-dimethyl-3-oxo-pentanonitrile
44 g (0.2 mol) of 5,6-dimethoxy-3,3-dimethyl-1-indanone, 25 g (0.2 mol) of pivaloylacetonitrile, 32 g of propionic acid and 17 g of ammonium acetate are mixed in 80 g of xylene and heated at 120° C. for 7 hours. After the system has been cooled to room temperature and the organic phase has been washed, the xylene is distilled off, and the crude product which remains is recrystallized in methanol. Yield: 50% theory; E1/1730 (λmax 373 nm).

reactant | 5,6-dimethoxy-3,3-dimethyl-1-indanone | 0.2 mol, 44 g | COC=1C=C2C(CC(C2=CC1OC)=O)(C)C | C13H16O3
reactant | pivaloylacetonitrile | 0.2 mol, 25 g | C(C(C)(C)C)(=O)CC#N | C7H11NO
reactant | propionic acid | 32 g | C(CC)(=O)O | C3H6O2
reactant | ammonium acetate | 17 g | C(C)(=O)[O-].[NH4+]
solvent | xylene | 80 g | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(5,6-Dimethoxy-3,3-dimethyl-1-indanylidene)-4,4-dimethyl-3-oxo-pentanonitrile | Yield: 50% | COC=1C=C2C(CC(C2=CC1OC)=C(C#N)C(C(C)(C)C)=O)(C)C | C20H25NO3
